US08497264B2
In a microwave vial, the potassium phosphate (1.014 g, 4.78 mmol), PdCl2(AmPhos)2 (0.085 g, 0.119 mmol), (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.604 g, 1.593 mmol), and 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.485 g, 2.310 mmol) were suspended in dioxane (6.5 mL) and water (2.5 mL). Argon gas was blown through the vessel, which was sealed and heated by microwave at 120° C. for 30 min. The mixture was concentrated. The residue was neutralized with half-saturated aqueous NH4Cl (35 mL). The aqueous phase was extracted with 5% MeOH/DCM (3×35 mL). The organics were combined, washed with dilute brine (15 mL), dried over sodium sulfate and concentrated to afford crude (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol which was used directly in the next step.

reactant | potassium phosphate | 4.78 mmol, 1.014 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 1.593 mmol, 0.604 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)Br)F)O)COC1 | C16H12BrFN2O3
reactant | 2-(5,6-dihydro-2H-pyran-3-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.310 mmol, 0.485 g | O1CC(=CCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
solvent | dioxane | 6.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.5 mL | O | H2O
catalyst | PdCl2(AmPhos)2 | 0.119 mmol, 0.085 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2COCCC2)F)O)COC1 | C21H19FN2O4
